US07429557B2
Solvency tests with 50% by volume 4-bromo-3-chloro-3,4,4-trifluorobutene and 50% by volume ethyl nonafluorobutyl ether were performed. The solvency characteristics of these mixtures matched or exceeded that of CFC-113 with Krytox and Jet Lube. The solvency of the individual components was inferior to that of CFC-113 toward Krytox and Jet Lube, illustrating the effectiveness of using mixtures as taught by this invention. Similarly, mixtures of 4-bromo-3,3,4,4-trifluorobutene and methyl nonafluorobutyl ether produced solvency characteristic that met or exceeded those of CFC-113.

reactant | 4-bromo-3-chloro-3,4,4-trifluorobutene | BrC(C(C=C)(F)Cl)(F)F | C4H3BrClF3
reactant | ethyl nonafluorobutyl ether | FC(C(C(F)(F)OCC)(F)F)(C(F)(F)F)F | C6H5F9O
solvent | CFC-113 | C(C(F)(Cl)Cl)(F)(F)Cl | C2Cl3F3
product | methyl nonafluorobutyl ether | FC(C(C(F)(F)OC)(F)F)(C(F)(F)F)F | C5H3F9O
